US07381719B2
6-Chloro-pyridine-3-carbaldehyde
Combine 6-chloro-nicotino-nitrile (1.00 g, 7.21 mmol) and toluene (24 mL). Cool the resulting solution at 0° C. and add DIBAL-H (1.0 M in toluene, 7.58 mL, 7.58 mmol) dropwise. Stir the resulting red solution at 0° C. for 1 h. Then, add methanol (2 mL) followed by H2SO4 (aq. 2.0 M, 6 mL). Stir for 1 h at rt. Add CHCl3:isopropanol (3/1, 15 mL) and wash with Rochelle's salt solution (20 mL), followed by NaHCO3 (20 mL) and brine. Dry the combined organic layers over magnesium sulfate, filter and concentrate. Purify by flash chromatography (EtOAc/hexanes 10%) to give the title compound (530 mg, 62%).

reactant | 6-chloro-nicotino-nitrile | 7.21 mmol, 1.00 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
reactant | DIBAL-H | 7.58 mmol, 1.0 M, 7.58 mL | CC(C)C[AlH]CC(C)C
reactant | H2SO4 | 2.0 M, 6 mL | OS(=O)(=O)O | H2O4S
solvent | methanol | 2 mL | CO | CH4O
product | 6-Chloro-pyridine-3-carbaldehyde | 530 mg, 62% | ClC1=CC=C(C=N1)C=O | C6H4ClNO
